Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ w/ PMHx  notable for CAD w/ NSTEMI s/p BMS (___), HTN, HL, 
CKD, and history of traumatic SDH seen in consultation for 
abdominal pain, nausea with vomiting, and obstipation. Pt 
reports that symptoms began approximately one day ago and have 
worsened. His last bowel movement was this morning and he cannot 
recall the last time he passed flatus. Given the persistence of 
these symptoms, he presented to an OSH for medical evaluation. 
CT scan
obtained there was notable for a high grade SBO with a 
transition point in the LUQ. He was transferred to ___ for 
further workup and management. 
 
Past Medical History:
PMHx: CAD w/ NSTEMI in ___ s/p BMS, ophthalmic migraine, BPH, 
HTN, HL, GERD, CKD, h/o traumatic SDH
PSHx: open appendectomy as a child
 
Social History:
___
Family History:
Father w/ CAD in ___, DM, ESRD. Mother w/ CA of unknown primary

 
Physical Exam:
ADMIT:
PE: 98.2 68 125/83 18 96RA
Gen: NAD, AAOx3
CV: RRR
R: clear ___
Abd: mildly distended, minimal fullness in mid/left upper
abdomen, no masses and no rebound/guarding, not tympanitic
Ext: no c/c/e

DISCHARGE:
PE: WNL
Gen: NAD, AAOx3
CV: RRR
Pulm: No respiratory distress
Abd: soft, nontender, non distended, no tenderness to palpation 
Ext: pulses, non-edematous 

 
Pertinent Results:
___ 11:38PM BLOOD WBC-7.3 RBC-5.16 Hgb-15.7 Hct-45.9 MCV-89 
MCH-30.4 MCHC-34.2 RDW-13.3 RDWSD-43.3 Plt ___
___ 06:30AM BLOOD WBC-10.0 RBC-4.81 Hgb-14.7 Hct-43.6 
MCV-91 MCH-30.6 MCHC-33.7 RDW-13.3 RDWSD-44.0 Plt ___
___ 11:38PM BLOOD Glucose-105* UreaN-22* Creat-1.2 Na-138 
K-4.7 Cl-99 HCO3-26 AnGap-13
___ 06:30AM BLOOD Glucose-115* UreaN-21* Creat-1.2 Na-141 
K-4.6 Cl-103 HCO3-23 AnGap-15
___ 06:30AM BLOOD Calcium-8.7 Phos-3.7 Mg-2.0

___ CT abdomen/pelvis OSH: High-grade small bowel 
obstruction
with a transition point involving the proximal to mid small 
bowel
in the left mid abdomen/upper quadrant. No free air identified.
Collapsed colon distal to the splenic flexure limiting
evaluation. Fecalization of several small bowel loops. 

ABDOMEN (SUPINE & ERECT) Clip # ___  
 TECHNIQUE:  Abdominal radiographs, total of four views.
 COMPARISON:  CT from ___.
 FINDINGS: 
 
Nasogastric tube terminates in the stomach.  These views show 
contrast fluid
levels throughout much of the redundant colon.  Colon is not 
dilated.  There
is a slightly distended segment of small bowel in the right 
lower quadrant. 
In the left upper quadrant small bowel is no longer dilated for 
the most part
and appears less evenly distended.  There is no evidence of free 
air.
 
IMPRESSION: 
 
Passage of barium into the large bowel without significant small 
bowel
dilation.  Findings consistent with resolving small bowel 
obstruction.
 
Brief Hospital Course:
The patient presented to Emergency Department on ___ for 
abdominal pain and emesis as a transfer from an outside 
hospital. Pt was evaluated by general surgery upon arrival to 
ED. CT scan was done at outside hospital and was consistent with 
a highgrade SBO with transition point. Given those findings and 
clinical presentation, made NPO, NGT was placed, and IVF were 
given. Patient was given gastrograffin and 8 hours later had 
follow up KUB that showed contrast in the colon. He was 
clinically doing better and started having flatus and bowel 
movements. 
 
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a IV pain 
medication and then pain was resolved after contrast and KUB.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet and early ambulation were encouraged throughout 
hospitalization. 
GI/GU/FEN: The patient was initially kept NPO with a 
___ tube in place for decompression.  On ___ the 
NGT was removed with no issues, therefore, the diet was advanced 
sequentially to a Regular diet, which was well tolerated. 
Patient's intake and output were closely monitored with Foley 
Catheter and removed with resolution of symptoms. 
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan. Patient was told to take diet 
slowly and avoid raw, leafy vegetables, nuts, and skins of 
grapes, popcorn. The patient asked about going to ___ in 2 
days for vacation and was told there is no guarantee this will 
not recur in that time, but clinically he is cleared to resume 
his normal lifestyle. 

 
Medications on Admission:
atorvastatin 80mg
isosorbide mononitrate ER 30mg
lansoprazole 30mg 
lisinopril 40mg
aristo vitamin OTC
ASA 81mg
 
Discharge Medications:
atorvastatin 80mg
isosorbide mononitrate ER 30mg
lansoprazole 30mg 
lisinopril 40mg
aristo vitamin OTC
ASA 81mg
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small Bowel Obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ with 
abdominal pain from a small bowel obstruction seen on imaging. A 
nasogastric tube was placed and you were put on bowel rest and 
given IV fluids. You are recovering well, tolerating a diet, and 
are now ready for discharge. Please follow the instructions 
below to continue your recovery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Please remember to restart your diet lightly, start with small 
meals and gradually eat more. Avoid nuts, fruit skins, and raw 
vegetables that may cause another obstruction. Introduce those 
foods back into your diet slowly.  

 
Followup Instructions:
___